US07910613B2
N-(5-Furan-3-yl-4-phenyl-thiazol-2-yl)-formamide (Intermediate for 5-furan-3-yl-4-phenyl-thiazol-2-ylamine)
To a solution of 2-furan-3-yl-1-phenyl-ethanone (5.7 g, 31 mmol) and thiourea (4.7 g, 61 mmol) in DMF (57 mL) was and added iodine (7.8 g, 31 mmol). The reaction mixture was heated at 100° C. overnight, then it was diluted with water and made alkaline with saturated aqueous NH4OH, and extracted with ether. The organic phases were washed with water, dried over sodium sulfate, concentrated and purified on neutral Al2O3 using 50% ethyl acetate in hexane as eluent. Yield: 5.7 g, 69%.

reactant | 2-furan-3-yl-1-phenyl-ethanone | 31 mmol, 5.7 g | O1C=C(C=C1)CC(=O)C1=CC=CC=C1 | C12H10O2
reactant | thiourea | 61 mmol, 4.7 g | NC(=S)N | CH4N2S
reactant | iodine | 31 mmol, 7.8 g | II | I2
reactant | NH4OH | [NH4+].[OH-]
reactant | DMF | 57 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(5-Furan-3-yl-4-phenyl-thiazol-2-yl)-formamide | O1C=C(C=C1)C1=C(N=C(S1)NC=O)C1=CC=CC=C1 | C14H10N2O2S
